US08003796B2
Step B. Preparation of tert-butyl 4-(5-chloro-1-(4-cyano-3-fluorophenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate
The intermediate was prepared according to the procedures described in Example 221 substituting 4-(5-chloro-4-hydroxy-2-oxopyridin-1(2H)-yl)-2-fluorobenzonitrile for 4-hydroxy-6-oxo-1,6-dihydropyridine-3-carbonitrile and tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate for 1-(5-propylpyrimidin-2-yl)piperidin-4-yl methanesulfonate in Step B. MS (ESI) 392 (M+H).

reactant | 4-(5-chloro-4-hydroxy-2-oxopyridin-1(2H)-yl)-2-fluorobenzonitrile | ClC=1C(=CC(N(C1)C1=CC(=C(C#N)C=C1)F)=O)O | C12H6ClFN2O2
reactant | 4-hydroxy-6-oxo-1,6-dihydropyridine-3-carbonitrile | OC=1C(=CNC(C1)=O)C#N | C6H4N2O2
reactant | tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
reactant | 1-(5-propylpyrimidin-2-yl)piperidin-4-yl methanesulfonate | CS(=O)(=O)OC1CCN(CC1)C1=NC=C(C=N1)CCC | C13H21N3O3S
product | tert-butyl 4-(5-chloro-1-(4-cyano-3-fluorophenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | ClC=1C(=CC(N(C1)C1=CC(=C(C=C1)C#N)F)=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C22H23ClFN3O4
